US08404869B2
2-Allyloxy-1,4-benzoquinone (6.56 g, 40 mM) and p-Chlorostyrene (60 g, 0.44 M) were dissolved in 80 ml of isopropanol to give 0.74 g (2.48 mM) of 2-Allyl-3-hydroxy-6-chloro-1,4-phenanthrenequinone in the same manner as in Example 7.

reactant | 2-Allyloxy-1,4-benzoquinone | 40 mM, 6.56 g | C(C=C)OC=1C(C=CC(C1)=O)=O | C9H8O3
reactant | p-Chlorostyrene | 0.44 M, 60 g | ClC1=CC=C(C=C)C=C1 | C8H7Cl
reactant | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | 2-Allyl-3-hydroxy-6-chloro-1,4-phenanthrenequinone | 2.48 mM, 0.74 g | C(C=C)C=1C(C=2C=CC3=CC=C(C=C3C2C(C1O)=O)Cl)=O | C17H11ClO3
